US04558047
[R-(R*, R*)]-α-(1-Formyl-2-hydroxyethoxy)-1,6-dihydro-6-oxo-9H-purine-9-acetaldehyde, (inosinedialdehyde), (2.6 g) was dissolved in water (30 ml). To the solution was added 2-aminothiazole (1.0 g). The solution was adjusted at pH 5.0 with dilute hydrochloric acid and stirred at ambient temperature overnight. The precipitate was collected by filtration, washed with acetone and air-dried to give 9-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-thiazolyl)morpholin-2-yl]hypoxanthine (2.2 g).

reactant | α-(1-Formyl-2-hydroxyethoxy)-1,6-dihydro-6-oxo-9H-purine-9-acetaldehyde | 2.6 g | C(=O)C(CO)OC(C=O)N1C=2N=CNC(C2N=C1)=O | C10H10N4O5
reactant | 2-aminothiazole | 1.0 g | NC=1SC=CN1 | C3H4N2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 9-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-thiazolyl)morpholin-2-yl]hypoxanthine | 2.2 g | OC1N(C([C@H](O[C@H]1N1C=2N=CNC(C2N=C1)=O)CO)O)C=1SC=CN1 | C13H14N6O5S
